US09216980B2
Step 2: (6-Bromo-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester
A mixture of 6-bromo-4-iodo-nicotinic acid (18.3 g, 55.7 mmol), diphenylphosphorylazide (18 mL, 83.6 mmol) and triethylamine (23.5 mL, 167.2 mmol) in tert-butanol (110 mL) and toluene (120 mL) was heated at 110° C. for 3 h. The mixture was allowed to cool to ambient temperature then evaporated under reduced pressure. The resultant oil was treated with water (150 mL) and extracted with ethyl acetate (2×300 mL). The combined organic layer was dried over anhydrous sodium sulfate, filtered and evaporated to give a black solid. The resultant black solid was triturated with methanol (75 mL), collected by filtration, then washed with diethyl ether (30 mL) and left to air dry to afford the title compound as a brown solid (7.5 g, 34%). The remaining filtrate was evaporated and purified by flash chromatography on a pad of silica. The pad was washed with 20% ethyl acetate in cyclohexane. Collecting all fractions containing product followed by evaporation in vacuo and trituation with cyclohexane afforded further title compound (8.9 g, 40%) as a white solid (combined yield—16.4 g, 74%). 1H NMR (CDCl3, 300 MHz): 8.95 (s, 1H), 7.87 (s, 1H), 6.64 (s, 1H), 1.54 (s, 9H). LCMS (Method B): RT=3.83 min, M+H+=399/401.

reactant | 6-bromo-4-iodo-nicotinic acid | 55.7 mmol, 18.3 g | BrC1=NC=C(C(=O)O)C(=C1)I | C6H3BrINO2
reactant | diphenylphosphorylazide | 83.6 mmol, 18 mL | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 167.2 mmol, 23.5 mL | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 110 mL | C(C)(C)(C)O | C4H10O
solvent | toluene | 120 mL | C1(=CC=CC=C1)C | C7H8
product | (6-Bromo-4-iodo-pyridin-3-yl)-carbamic acid tert-butyl ester | 7.5 g, 34% | C(C)(C)(C)OC(NC=1C=NC(=CC1I)Br)=O | C10H12BrIN2O2
